US07897607B2
5-(2,4-Dimethylphenyl)-1-(1-propylbutyl)quinolin-4(1H)-one
A mixture of 5-Bromo-1-(1-propylbutyl)quinolin-4(1H)-one (0.096 g, 0.30 mmol), 2,4-dimethylbenzeneboronic acid (0.067 g, 0.45 mmol), potassium carbonate (0.124 g, 0.89 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.17 g, 0.15 mmol) were put under nitrogen gas. Dioxane (4 mL) was added followed by water (27 μL 1.5 mmol). The reaction was heated at 90° C. overnight. The solution was cooled and concentrated. Flash chromatography (60% ethyl acetate/hexanes) gave 0.088 g (85% yield) of the desired product.

reactant | 5-Bromo-1-(1-propylbutyl)quinolin-4(1H)-one | 0.30 mmol, 0.096 g | BrC1=C2C(C=CN(C2=CC=C1)C(CCC)CCC)=O | C16H20BrNO
reactant | 2,4-dimethylbenzeneboronic acid | 0.45 mmol, 0.067 g | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | potassium carbonate | 0.89 mmol, 0.124 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 mmol, 27 μL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-(2,4-Dimethylphenyl)-1-(1-propylbutyl)quinolin-4(1H)-one | 0.088 g, 85% yield | CC1=C(C=CC(=C1)C)C1=C2C(C=CN(C2=CC=C1)C(CCC)CCC)=O | C24H29NO
